US07427631B2
5-chloro-2-{[4-(methylsulfonyl)phenyl]oxy}pyridine
2,5-dichloropyridine (1.48 g; 10 mmol), 4-methylsulfonylphenol (1.89 g; 11 mmol) and Cs2CO3 (4.24 g; 13 mmol) was slurried in 75 mL of NMP. The slurry was heated to approx 170° C. over night. After cooling the Cs2CO3 was filtered off and the solvent was extracted between H2O and EtOAc. The organic phase was dried over Na2SO4 and evaporated. Heptane:EtOAc 2:1 was added to the residue and the crystalls was filtered off 1.42 g (50%).

reactant | 2,5-dichloropyridine | 10 mmol, 1.48 g | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | 4-methylsulfonylphenol | 11 mmol, 1.89 g | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
reactant | Cs2CO3 | 13 mmol, 4.24 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | NMP | 75 mL | CN1CCCC1=O | C5H9NO
product | 5-chloro-2-{[4-(methylsulfonyl)phenyl]oxy}pyridine | ClC=1C=CC(=NC1)OC1=CC=C(C=C1)S(=O)(=O)C | C12H10ClNO3S
